US04152426
16 g (0.1 mol) of bromine were added to a solution of 17.2 g (0.1 mol) of 1-methyl-2-methylthio-4-hydroxy-6-oxo-1,6-dihydro-pyrimidine in 110 ml of 1 N sodium hydroxide solution at room temperature. After the end of the addition, the batch was stirred for a further 0.5 hour and was then cooled to 5° C. The product which had precipitated was filtered off and rinsed with water. 18 g (76% of theory) of 1-methyl-2-methylthio-4-hydroxy-5-bromo-6-oxo-1,6-dihydro-pyrimidine were thus obtained in the form of pale yellow crystals of melting point 184° C. (with decomposition).

reactant | bromine | 0.1 mol, 16 g | BrBr | Br2
reactant | 1-methyl-2-methylthio-4-hydroxy-6-oxo-1,6-dihydro-pyrimidine | 0.1 mol, 17.2 g | CN1C(=NC(=CC1=O)O)SC | C6H8N2O2S
solvent | sodium hydroxide | 1 N, 110 ml | [OH-].[Na+]
product | 1-methyl-2-methylthio-4-hydroxy-5-bromo-6-oxo-1,6-dihydro-pyrimidine | 18 g, 76% | CN1C(=NC(=C(C1=O)Br)O)SC | C6H7BrN2O2S
